US05021418
Preparation of Ethyl 2-Formylnicotinate
In flame-dried glassware under N2 atmosphere, to a solution of 2,3-pyridinedicarboxylic acid diethyl ester (0.254 g, 1.14 mmol) in anhydrous toluene (5 mL) at -78° C. was added diisobutylaluminum hydride (DiBal) (1.48 mL, 1.48 mmol, 1M in toluene). After 30 minutes, additional DiBal (0.4 mL, 0.4 mmol, 1M in toluene) was added. After 15 minutes, the reaction mixture was quenched with methanol (2 mL)/saturated Na/K tartrate (40 mL) and extracted into EtOAc (3×50 mL). The combined organic extracts were washed with saturated NaHCO3 (2×50 mL), saturated brine (1×75 mL), dried over MgSO4, filtered, concentrated, and flash chromatographed (5 to 10% EtOAc/CH2Cl2 gradient) to provide 0.075 g of the title compound as a colorless oil (36.8%). 1H NMR (CDCl3, 300 MHz): δ 10.34 (s, 1H, RCHO), 8.84 (d, 1H, Arom), 8.10 (d, 1H, Arom), 7.56 (dd, 1H, Arom), 4.45 (q, 2H, OCH2), 1.40 (t, 3H, CH2CH3)

reactant | 2,3-pyridinedicarboxylic acid diethyl ester | 1.14 mmol, 0.254 g | C(C)OC(=O)C1=NC=CC=C1C(=O)OCC | C11H13NO4
reactant | diisobutylaluminum hydride | 1.48 mmol, 1M, 1.48 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | DiBal | 0.4 mmol, 1M, 0.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-Formylnicotinate | 0.075 g, 36.8% | C(=O)C1=C(C(=O)OCC)C=CC=N1 | C9H9NO3
